US04071519
40 ml of dimethyl acetamide was added to 10.01 g of 5-fluorouracil and 11.95g of n-octyl isocyanate. After the reaction was carried out at 60° C for an hour, the reaction mixture was allowed to stand overnight at room temperature. The solvent was distilled off and to the residue were added 200 ml of chloroform and 300 ml of water to effect extraction. The chloroform layer was dried over anhydrous sodium sulfate. After evaporating off the chloroform, the precipitated crystals were recrystallized from ethanol to obtain 9.49 g of 1-(N-n-octylcarbamoyl)-5-fluorouracil melting at 98°-100° C.

reactant | 5-fluorouracil | 10.01 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | n-octyl isocyanate | 11.95g | C(CCCCCCC)N=C=O | C9H17NO
solvent | dimethyl acetamide | 40 ml | CC(=O)N(C)C | C4H9NO
product | 1-(N-n-octylcarbamoyl)-5-fluorouracil | 9.49 g | C(CCCCCCC)NC(=O)N1C(=O)NC(=O)C(=C1)F | C13H20FN3O3
